US09056859B2
Step B: 6-Bromo-5-methyl-3,4-dihydro-1H-isochromen-1-one
To a 20 mL microwave tube was added 6-Bromo-5-iodo-3,4-dihydro-1H-isochromen-1-one (300 mg, 0.85 mmol), Potassium Trifluoromethylborate (114 mg, 0.94 mmol), PdCl2(dppf)-CH2Cl2 Adduct (69 mg, 0.085 mmol), cesium carbonate (830 mg, 2.6 mmol), and a stir bar. The mixture was sealed and THF (10 mL) and water (1 mL) were added with a syringe. The mixture was purged three times with nitrogen, and then heated to 140° C. for 30 minutes. TLC showed formation of the desired product. The reaction was diluted with EtOAc, washed with water and brine, dried over sodium sulfate, adsorbed onto silica gel, and purified by MPLC (Hex/EtOAc gradient) to furnish the product. LC-MS (IE, m/z): 241 [M+1]+;

reactant | 6-Bromo-5-iodo-3,4-dihydro-1H-isochromen-1-one | 0.85 mmol, 300 mg | BrC=1C(=C2CCOC(C2=CC1)=O)I | C9H6BrIO2
reactant | Potassium Trifluoromethylborate | 0.94 mmol, 114 mg | FC(F)(F)OB([O-])[O-].[K+].[K+]
reactant | cesium carbonate | 2.6 mmol, 830 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | PdCl2(dppf) CH2Cl2 | 0.085 mmol, 69 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | water | 1 mL | O | H2O
product | 6-Bromo-5-methyl-3,4-dihydro-1H-isochromen-1-one | BrC=1C(=C2CCOC(C2=CC1)=O)C | C10H9BrO2
